Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
Zyprexa / Risperdal / Abilify / Saphris
 
Attending: ___.
 
Chief Complaint:
Back pain 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Patient is a ___ female who presented to ER with back pain
for 18 hours. Started in the ___ her lower
back and radiated to her groin. NOW HAVING NO BACK/ABDOMINAL
PAIN. Also Endorses gross hematuria, fruit punch colored without
clots. Denies fevers, chills, HA, CP, SOB, dysuria.

Has history of stones requiring procedures. Most recent was ESWL
in ___ ___.

WBC 15, no bands
Cr 1 (baseline 0.9)
UA 100 wbc, few bact, no nitr, no yeast
 
Past Medical History:
PMH/PSH:
- stroke
- CAD/NSTEMI
- hypothyroidism
- migraine headaches
- psychotic disorder, prior psychiatric admissions

FH:
no FH of GU malignancy or stone disease

copied from ___ d/c summary:
-HYPOTHYROIDISM   
-MIGRAINE HEADACHES   
-PARANOID DELUSIONS  
-H/O MYOCARDIAL INFARCTION ___ - NSTEMI - vasospasm vs. 
intramyocardial bridging. Cath ___:  distal LAD vasospasm 
versus chronic disease.  The LMCA, LCX, and RCA had no 
angiographically significant disease.  The LAD appeared to be a 
twin system with spasm versus chronic disease in the distal 
pole. TTE ___: focal hypokinesis of the distal septum, inferior 
wall, lateral wall, and apical cap (EF relatively preserved at 
55%).  
Peripheral artery disease
Seasonal allergies
Denies h/o head injuries or seizure

 
Social History:
___
Family History:
Aunt w/ hypothyroidism. Patient has 2 cousins with bipolar 
disorder
 
Physical Exam:
WdWn male, NAD, AVSS

Interactive, cooperative

Abdomen soft, Nt/Nd

Flank pain: None 

Lower extremities w/out edema or pitting and no report of calf 
pain

 
Pertinent Results:
___ 10:25AM BLOOD WBC-6.6 RBC-3.95 Hgb-10.9* Hct-34.5 
MCV-87 MCH-27.6 MCHC-31.6* RDW-13.4 RDWSD-42.9 Plt ___
___ 07:29PM BLOOD WBC-14.9* RBC-5.16 Hgb-14.1 Hct-44.5 
MCV-86 MCH-27.3 MCHC-31.7* RDW-13.2 RDWSD-41.2 Plt ___
___ 10:25AM BLOOD Glucose-84 UreaN-12 Creat-0.8 Na-141 
K-3.7 Cl-105 HCO3-27 AnGap-9*
___ 07:29PM BLOOD Glucose-106* UreaN-15 Creat-1.0 Na-140 
K-5.4 Cl-99 HCO3-25 AnGap-16

Urine culture: Pending 

US retroperitoneal ___
IMPRESSION:  
  
1.  3 mm obstructing left UVJ stone with absence of left 
ureteral jet. 
2.  Multiple nonobstructing bilateral renal calculi. 
3.  Probably a combination of hydronephrosis and multiple 
parapelvic cysts in 
the bilateral kidneys, left worse than right, although difficult 
to 
definitively delineate on ultrasound.  Overall, findings are 
stable compared 
to ultrasound from ___ and CT from ___. 

 
Brief Hospital Course:
Patient was admitted to the Urology service under Dr. ___ 
observation. No complications were encountered overnight and by 
the morning the patient's flank pain had subsided. A follow up 
US was obtained which demonstrated the left UVJ stone still in 
place. Her labs were normal with a WBC of 6 and a creatinine of 
0.8. She was discharged for a trial of medical expulsive therapy 
and to follow up with Dr. ___ in the office. She was discharged 
on antibiotics. Urine culture is still pending at this time but 
patient did not demonstrated any significant signs of infection 
during her stay. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325 mg PO Q6H:PRN Pain - Mild 
2. lurasidone 100 mg oral DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Apixaban 5 mg PO BID 
5. Simvastatin 40 mg PO QPM 
6. MethylPHENIDATE (Ritalin) 10 mg PO DAILY 
7. Levothyroxine Sodium 100 mcg PO DAILY 
8. Benztropine Mesylate 1 mg PO BID 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe  

2.  Sulfameth/Trimethoprim DS 1 TAB PO BID UTI  
3.  Tamsulosin 0.4 mg PO QHS  
4.  Acetaminophen 325 mg PO Q6H:PRN Pain - Mild  
5.  Apixaban 5 mg PO BID  
6.  Benztropine Mesylate 1 mg PO BID  
7.  Levothyroxine Sodium 100 mcg PO DAILY  
8.  lurasidone 100 mg oral DAILY  
9.  MethylPHENIDATE (Ritalin) 10 mg PO DAILY  
10.  Metoprolol Succinate XL 25 mg PO DAILY  
11.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left UVJ stone 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month;  this may be related to the passage of the stone. 

-You may experience some pain associated with spasm of your 
ureter.; This is normal. Take the narcotic pain medication as 
prescribed if additional pain relief is needed.

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.

-___ ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control. For pain 
control, try TYLENOL FIRST, then ibuprofen, and then take the 
narcotic pain medication as prescribed if additional pain relief 
is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-You MAY be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

-You may be given “prescriptions” for a stool softener and/or a 
gentle laxative. These are  over-the-counter medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

 
Followup Instructions:
___